US05416212
A mixture of 18.8 g of N-(2,6-diisopropylphenyl)-2-chloroacetamide, 8.9 g of ethyl 2-mercaptoacetate, 20.4 g of potassium carbonate, and 100 ml of dimethyl sulfoxide was stirred at room temperature for 1 hour, and a mixture of 25 ml of concentrated hydrochloric acid and 100 ml of water was added thereto. The reaction mixture was extracted with 300 ml of ethyl acetate, and the extract was washed successively with a 1N hydrochloric acid aqueous solution, a sodium hydrogencarbonate aqueous solution, and a saturated sodium chloride aqueous solution, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to yield 22.6 g of N-(2,6-diisopropylphenyl)-2-(ethoxycarbonylmethylthio)acetamide as white needle crystals (m.p.=124.0°-125.0° C.).

reactant | N-(2,6-diisopropylphenyl)-2-chloroacetamide | 18.8 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(CCl)=O | C14H20ClNO
reactant | ethyl 2-mercaptoacetate | 8.9 g | SCC(=O)OCC | C4H8O2S
reactant | potassium carbonate | 20.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | N-(2,6-diisopropylphenyl)-2-(ethoxycarbonylmethylthio)acetamide | 22.6 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(CSCC(=O)OCC)=O | C18H27NO3S
